datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1(C)CC(NCCO)CC(C)(C)[NH+:21]1[H:20].CN(C)CCCNc1cc[n:10]c2ccccc12>>CC1(C)CC(NCCO)CC(C)(C)[NH:21]1.CN(C)CCCNc1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC([NH3+])C[NH2:10].N#CC(C#N)=[N+:21](Nc1ccc([N+](=O)[O-])cc1Cl)[H:20]>>CC([NH3+])C[NH2+:10][H:20].N#CC(C#N)=[N:21]Nc1ccc([N+](=O)[O-])cc1Cl 10=20;20,21=21",
"C[NH:10]CCc1ccc(O)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCc1ccc(O)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1cc(C(C)C)cc(C)c1[O-:10].Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O:21][H:20]>>Cc1cc(C(C)C)cc(C)c1[O:10][H:20].Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O-:21] 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[NH+:10](CCCC(=O)[O-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1.O=C([O-])C[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1.O=C([O-])C[O:10][H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2c[n:10]ccc2[nH]1.COc1cc2ccccc2cc1C(=O)[O:21][H:20]>>COc1cc(S(C)=O)ccc1-c1nc2c[n+:10]([H:20])ccc2[nH]1.COc1cc2ccccc2cc1C(=O)[O-:21] 10=20;20,21=21",
"CC(=O)n1cc[n+:21]([H:20])c1Cc1[nH]cc[nH+]1.CCN(CC)C(=O)C[NH:10]CC>>CC(=O)n1cc[n:21]c1Cc1[nH]cc[nH+]1.CCN(CC)C(=O)C[NH+:10](CC)[H:20] 10=20;20,21=21",
"COc1cccc(C[NH2:10])c1O.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1cccc(C[NH2+:10][H:20])c1O.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COCCCC[NH:10]c1ccccc1.c1ccc(C[NH2+]CC[S:21][H:20])cc1>>COCCCC[NH+:10](c1ccccc1)[H:20].c1ccc(C[NH2+]CC[S-:21])cc1 10=20;20,21=21",
"Clc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.c1cc[n:10]cc1>>Clc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"Clc1ccccc1[O:21][H:20].OCCNC(=S)[S-:10]>>Clc1ccccc1[O-:21].OCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"CC(C)(C)NCCCCCC[NH+:21](C(C)(C)C)[H:20].CC[NH:10]CC[Se-]>>CC(C)(C)NCCCCCC[NH:21]C(C)(C)C.CC[NH+:10](CC[Se-])[H:20] 10=20;20,21=21",
"c1cc(CC[NH2:10])ccn1.c1ccc(-c2cccc3ccc([O:21][H:20])cc23)cc1>>c1cc(CC[NH2+:10][H:20])ccn1.c1ccc(-c2cccc3ccc([O-:21])cc23)cc1 10=20;20,21=21",
"C[Se](=O)[O:21][H:20].Oc1cccc2sc[n:10]c12>>C[Se](=O)[O-:21].Oc1cccc2sc[n+:10]([H:20])c12 10=20;20,21=21",
"C[Si](C)(C)C[NH2+:21][H:20].O=C(Nc1ccccc1)O[N-:10]C(=O)c1ccccc1>>C[Si](C)(C)C[NH2:21].O=C(Nc1ccccc1)O[N:10](C(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"C=CCc1c(C)[nH][n:10]c1O.CCN(CC)C(=S)[S:21][H:20]>>C=CCc1c(C)[nH][n+:10]([H:20])c1O.CCN(CC)C(=S)[S-:21] 10=20;20,21=21",
"CC(C)c1nnn[n-:10]1.Cc1ccc(Sc2ccc([N+](=O)[O-])cc2C(=O)[O:21][H:20])cc1>>CC(C)c1nnn[n:10]1[H:20].Cc1ccc(Sc2ccc([N+](=O)[O-])cc2C(=O)[O-:21])cc1 10=20;20,21=21",
"N#CC(CC[N+:21]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.[NH3+]CCCCCCC(=O)[O-:10]>>N#CC(CC[N:21]1CCOCC1)(c1ccccc1)c1ccccc1.[NH3+]CCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)N1CC[NH+:21]([H:20])CC1.c1c2c(cc3[nH]c([O-:10])nc13)CCCC2>>CCOC(=O)N1CC[NH:21]CC1.c1c2c(cc3[nH]c([O:10][H:20])nc13)CCCC2 10=20;20,21=21",
"CC(C)(C(=O)[O:21][H:20])c1nnnn1C1CCCCC1.CC(O)[C@@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)O>>CC(C)(C(=O)[O-:21])c1nnnn1C1CCCCC1.CC(O)[C@@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)O 10=20;20,21=21",
"CC(C)C[NH:10]CC(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)C[NH+:10](CC(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1.CCCC[O-:10]>>CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1.CCCC[O:10][H:20] 10=20;20,21=21",
"Brc1c(-c2ccccc2)noc1[O:21][H:20].N#C[C@H]1CCCC[C@@H]1C(=O)[O-:10]>>Brc1c(-c2ccccc2)noc1[O-:21].N#C[C@H]1CCCC[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC=C(Cl)C(=O)[O:21][H:20].Cc1cc2ccccc2[n:10]c1>>CC=C(Cl)C(=O)[O-:21].Cc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CCc1cc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)ccc1C.COc1cccc(/C=C/C(=O)[O-:10])c1>>CCc1cc(/N=N/c2ccc([N:21](C)C)cc2)ccc1C.COc1cccc(/C=C/C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CNC(=O)CS(=O)(=O)[N:21](C(N)=O)[H:20].c1c2c(cc3[nH]c([O-:10])nc13)CCCC2>>CNC(=O)CS(=O)(=O)[N-:21]C(N)=O.c1c2c(cc3[nH]c([O:10][H:20])nc13)CCCC2 10=20;20,21=21",
"Cc1cc(O)c([NH2:10])cc1C.S=C1N/C(=[S+:21]\[H:20])NC1c1ccccc1>>Cc1cc(O)c([NH2+:10][H:20])cc1C.S=C1NC(=[S:21])NC1c1ccccc1 10=20;20,21=21",
"COc1ccc(N)cc1C[NH2:10].Nc1nc(N)[n+:21]([H:20])c2c1cnn2-c1ccccc1>>COc1ccc(N)cc1C[NH2+:10][H:20].Nc1nc(N)[n:21]c2c1cnn2-c1ccccc1 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C[Si](C)(C)C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[Si](C)(C)C[NH+:10](C[Si](C)(C)C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.CN1C=CC(=[NH+:21][H:20])C=C1>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].CN1C=CC(=[NH:21])C=C1 10=20;20,21=21",
"CC(C)C[N+:21](CCS)(CC(C)C)[H:20].CCCCCN[NH2:10]>>CC(C)C[N:21](CCS)CC(C)C.CCCCCN[NH2+:10][H:20] 10=20;20,21=21",
